US07585872B2
G1. Acetic Acid (1RS,3RS,4RS)-3-(3,4-dimethoxyphenyl)-4-nitrocyclohexyl Ester
10.18 g of (1RS,3RS,4RS)-3-(3,4-dimethoxyphenyl)-4-nitrocyclohexanol (compound H1) are dissolved in 100 ml of acetic anhydride and the solution is heated to 100° C. for 1-2 h. After removal of the solvent, the residue is chromatographed on silica gel using a mixture of petroleum ether/ethyl acetate in the ratio 2/1. Concentration of the corresponding eluate fractions furnish 10.37 g (89% of theory) of the title compound as an oil.

reactant | (1RS,3RS,4RS)-3-(3,4-dimethoxyphenyl)-4-nitrocyclohexanol | 10.18 g | COC=1C=C(C=CC1OC)C1CC(CCC1[N+](=O)[O-])O | C14H19NO5
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Acetic Acid (1RS,3RS,4RS)-3-(3,4-dimethoxyphenyl)-4-nitrocyclohexyl Ester | COC=1C=C(C=CC1OC)C1CC(CCC1[N+](=O)[O-])OC(C)=O | C16H21NO6
